US05744606
40.4 g (236 mmol) of benzyl bromide was added dropwise over 15 minutes to 29.5 g (236 mmol) of 3-quinuclidinone in 120 ml of acetonitrile and the suspension formed was filtered through a frit after 2 hours at 25° C. Washing with n-hexane (2×50 ml) and drying gave 65.3 g (93 percent) of 1-benzyl-3-oxoquinuclidinium bromide in the form of a white crystalline solid. Other data concerning the product was: ##EQU4##

reactant | benzyl bromide | 236 mmol, 40.4 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-quinuclidinone | 236 mmol | N12CC(C(CC1)CC2)=O | C7H11NO
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 1-benzyl-3-oxoquinuclidinium bromide | 65.3 g, 93 percent | [Br-].C(C1=CC=CC=C1)[N+]12CC(C(CC1)CC2)=O | InChI=1S/C14H18NO.BrH/c16-14-11-15(8-6-13(14)7-9-15)10-12-4-2-1-3-5-12;/h1-5,13H,6-11H2;1H/q+1;/p-1
